US08303844B2
30.0 g (about 0.1 mol) of 7-ethoxy-1,2-difluoronaphthalene are initially introduced in 300 ml of THF, and 130.0 ml (0.21 mol) of n-BuLi (15% soln. in hexane) are added at −75° C. After 1 h at this temperature, 25.0 ml (0.22 mol) of trimethyl borate are added dropwise, and the batch is warmed to −10° C. 50 ml of dilute acetic acid (about 30%) are added, and the mixture is warmed to 30° C. 40 ml of hydrogen peroxide solution (35%) are carefully added, and the mixture is stirred vigorously for 18 h. Water is added, and ammonium iron(II) sulfate is added to the batch. The solution is extracted a number of times with MTBE, and the combined organic phases are washed successively with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and evaporated to dryness. The crude product is purified by column chromatography (SiO2, toluene:ethyl acetate=9:1), giving 6-ethoxy-3,4-difluoronaphthalen-2-ol as a pale-brown solid.

reactant | 7-ethoxy-1,2-difluoronaphthalene | about 0.1 mol, 30.0 g | C(C)OC1=CC=C2C=CC(=C(C2=C1)F)F | C12H10F2O
reactant | n-BuLi | 0.21 mol, 130.0 ml | [Li]CCCC
reactant | trimethyl borate | 0.22 mol, 25.0 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 40 ml | OO | H2O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | ammonium iron(II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2].[NH4+]
solvent | Water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-ethoxy-3,4-difluoronaphthalen-2-ol | C(C)OC=1C=C2C(=C(C(=CC2=CC1)O)F)F | C12H10F2O2
